* Schematics Netlist *



X_U2         $N_0001 $N_0002 Sw_tOpen PARAMS: tOpen=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U1         $N_0003 $N_0002 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R         $N_0002 $N_0004  20  
V_VE1         $N_0001 0 60
V_VE2         $N_0003 0 DC 60 
+SIN 0 80 25.46479089 0 0 -45
L_L         $N_0004 0  250m  
